US04410536
6-(3-Dimethylaminopropyl)-1,9-dimethyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole dihydrochloride
4.0 g of 1,9-dimethyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole are dissolved in 60 ml of dimethylformamide, 0.78 g of a 50% strength dispersion of NaH is added, whilst stirring, and, after 1 hour, 2.4 g of 3-dimethylaminopropyl chloride are added. After leaving the mixture is stand for 15 hours, the solvent is evaporated off, the residue is taken up in ethyl acetate, the ethyl acetate mixture is washed and dried and the product is purified on SiO2 with chloroform/methanol (1:1). The dihydrochloride is then prepared with isopropyl alcohol/HCl. Melting point: 263° C.

reactant | 1,9-dimethyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole | 4.0 g | CC1=CSC=2C1=C1C3=C(NC1=CC2)CCN(C3)C | C15H16N2S
reactant | NaH | [H-].[Na+]
reactant | 3-dimethylaminopropyl chloride | 2.4 g | CN(CCCCl)C | C5H12ClN
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6-(3-Dimethylaminopropyl)-1,9-dimethyl-7,8,9,10-tetrahydrothieno[3,2-e]pyrido[4,3-b]indole dihydrochloride | Cl.Cl.CN(CCCN1C2=C(C3=C4C(=CC=C13)SC=C4C)CN(CC2)C)C | InChI=1S/C20H27N3S.2ClH/c1-14-13-24-18-7-6-17-20(19(14)18)15-12-22(4)11-8-16(15)23(17)10-5-9-21(2)3;;/h6-7,13H,5,8-12H2,1-4H3;2*1H
